US04440941
N-(2-Mercapto-3-chlorobenzoyl)-N-cyclopentylglycine
To a chilled solution of methanolic ammonia (50 ml) was added 3.7 g (0.0104 m) of N-(2-acetylthio-3-chlorobenzoyl)-N-cyclopentylglycine. The reaction was covered with nitrogen and stirred 3 hours while warming slowly from 0° C. to room temperature.

reactant | N-(2-acetylthio-3-chlorobenzoyl)-N-cyclopentylglycine | 3.7 g | C(C)(=O)SC1=C(C(=O)N(CC(=O)O)C2CCCC2)C=CC=C1Cl | C16H18ClNO4S
solvent | ammonia | 50 ml | N | H3N
product | N-(2-Mercapto-3-chlorobenzoyl)-N-cyclopentylglycine | SC1=C(C(=O)N(CC(=O)O)C2CCCC2)C=CC=C1Cl | C14H16ClNO3S
